US04962115
A mixture of 4.7 parts of 1-(3-chloropropoxy)-4-fluorobenzene, 3.015 parts of cis-4-amino-5-chloro-2-methoxy-N-(3-methoxy-4-piperidinyl)benzamide, 0.1 parts of potassium iodide, 3 parts of N,N-diethylethanamine and 45 parts of N,N-dimethylformamide was stirred and heated for 18 hours at 60° C. The reaction mixture was poured onto water. The precipitated product was filtered off and dissolved in trichloromethane. The solution was washed with water. The organic phase was separated, dried, filtered and evaporated. The residue was purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (90:10 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The oily residue was crystallized from 2-propanol. The product was filtered off and dried, yielding 3.11 parts (42.8%) of cis-4-amino-5-chloro-N-[1-[3-(4-fluoro-phenoxy)propyl]-3-methoxy-4-piperidinyl]-2-methoxybenzamide monohydrate; mp. 109.8° C. (compound 1).

reactant | 1-(3-chloropropoxy)-4-fluorobenzene | ClCCCOC1=CC=C(C=C1)F | C9H10ClFO
reactant | cis-4-amino-5-chloro-2-methoxy-N-(3-methoxy-4-piperidinyl)benzamide | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CNCC2)OC)C=C1Cl)OC | C14H20ClN3O3
reactant | potassium iodide | [I-].[K+]
reactant | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | cis-4-amino-5-chloro-N-[1-[3-(4-fluoro-phenoxy)propyl]-3-methoxy-4-piperidinyl]-2-methoxybenzamide monohydrate | 42.8% | O.NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCCOC2=CC=C(C=C2)F)OC)C=C1Cl)OC | InChI=1S/C23H29ClFN3O4.H2O/c1-30-21-13-19(26)18(24)12-17(21)23(29)27-20-8-10-28(14-22(20)31-2)9-3-11-32-16-6-4-15(25)5-7-16;/h4-7,12-13,20,22H,3,8-11,14,26H2,1-2H3,(H,27,29);1H2/t20-,22+;/m0./s1
